US04479002
To a solution of 45.2 g (0.44 mole) of sulfur dichloride in 200 ml of methylene chloride cooled to -5° C. under a nitrogen atmosphere was added a solution made up of 50.9 g (0.4 mole) of n-butyl N-methylcarbamate, 44.5 g (0.44 mole) of triethylamine and 100 ml of methylene chloride. The addition took 2 hours while the temperature was maintained at -15° C. to 0° C. After stirring for 1 hour the mixture was filtered under a positive nitrogen atmosphere, and the filtrate was concentrated. Solid was removed by extracting the product with hexanes. After filtration the hexane solution was concentrated to give 57.3 g of n-butyl N-chlorothio-N-methylcarbamate.

reactant | sulfur dichloride | 0.44 mole, 45.2 g | S(Cl)Cl | Cl2S
reactant | n-butyl N-methylcarbamate | 0.4 mole, 50.9 g | CNC(OCCCC)=O | C6H13NO2
reactant | triethylamine | 0.44 mole, 44.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | n-butyl N-chlorothio-N-methylcarbamate | 57.3 g | ClSN(C(OCCCC)=O)C | C6H12ClNO2S
